US07576204B2
(8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide (57.1 mg, 72.7 μmol) was dissolved in methylene chloride (0.5 mL). Triethylamine (51.0 μL, 366 μmol) and dimethylaminopyridine (4.9 mg, 40.1 μmol) was added to the solution, and the reaction solution was cooled to 0° C. A solution of 4-nitrophenyl chloroformate (45.0 mg, 223 μmol) in methylene chloride (0.5 mL) was added to the solution. The reaction solution was warmed to room temperature and stirred for five hours. 4-Nitrophenyl chloroformate (17.8 mg, 88.3 μmol) was further added to the reaction solution, and the solution was stirred at the same temperature for two hours. The reaction solution was diluted with ethyl acetate (30 mL), and the dilution was washed with saturated aqueous solution of sodium hydrogencarbonate (10 mL) twice, purified water (10 mL) twice, and brine (10 mL). The resulting organic layer was dried over sodium sulfate, and then filtered. The filtrate was concentrated. The concentrate was purified by silica gel column chromatography (MERCK Silica gel 60, 63 to 200 μm; hexane:ethyl acetate=9:1) to obtain the title compound (106.6 mg) as a mixture.

reactant | (8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 72.7 μmol, 57.1 mg | C(C1=CC=CC=C1)(=O)OC(C(C1C(CC(/C=C/C=C(/C2C(/C=C/C(C(CCC(CC(=O)O2)O[Si](CC)(CC)CC)(C)OC(C)OCC)O)C)\C)C)O1)C)CC | C45H72O9Si
reactant | Triethylamine | 366 μmol, 51.0 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 40.1 μmol, 4.9 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-nitrophenyl chloroformate | 223 μmol, 45.0 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 4-Nitrophenyl chloroformate | 88.3 μmol, 17.8 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 106.6 mg | C(C1=CC=CC=C1)(=O)OC(C(C1C(CC(/C=C/C=C(/C2C(/C=C/C(C(CCC(C(C(=O)O2)C(=O)O)O[Si](CC)(CC)CC)(C)OC(C)OCC)OC2=CC=C(C=C2)[N+](=O)[O-])C)\C)C)O1)C)CC | C52H75NO13Si
